US07381719B2
6-[4-(Benzylamino-methyl)-phenoxy]-nicotinamide
Combine 6-(4-Formyl-phenoxy)-nicotinamide (0.097 g, 0.4 mmol) in 5 mL of methanol with benzylamine (0.4 mmol), and 1 g of 3 {acute over (Å)} molecular sieves. Stir for 18 h. Add sodium borohydride (0.076 g, 2 mmol), and stir for 18 h. Flush the reactions down through a 5 g SCX column, first wash with 1:1 chloroform/methanol, then collect washes with 1:1 chloroform/2 M ammonia in methanol. Adsorb the collected material on silica, then purify via a ISCO® Combiflash 16× system (use a 10 g silica cartridge, and elute with 98:2:0.2 chloroform/ethanol/ammonium hydroxide, gradient to 90:10:1 chloroform/ethanol/ammonium hydroxide). 1H NMR (DMSO-d6): 8.58 (d, 1H), 8.22 (m, 1H), 8.0 (s, 1H), 7.46 (s, 1H), 7.27-7.38 (m, 6H), 7.20 (m, 1H) 7.02-7.08 (m, 3H), 3.67-3.68 (d, 4H). TLC Rf (90:10:1 chloroform/ethanol/ammonium hydroxide): 0.31.

reactant | 6-(4-Formyl-phenoxy)-nicotinamide | 0.4 mmol, 0.097 g | C(=O)C1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1 | C13H10N2O3
reactant | benzylamine | 0.4 mmol | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium borohydride | 2 mmol, 0.076 g | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 6-[4-(Benzylamino-methyl)-phenoxy]-nicotinamide | C(C1=CC=CC=C1)NCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1 | C20H19N3O2
